US04248619
Preparation of 5-Chloro-2-[3-(4,6-dimethyl-2-pyrimidyloxy)phenoxy]pyrimidine (5)
A mixture of 2-(3-hydroxyphenoxy)-5-chloropyrimidine (2.22 g), 2-chloro-4,6-dimethylpyrimidine (1.43 g), isobutyl methyl ketone (25 ml) and anhydrous potassium carbonate (1.52 g) was heated under reflux for a period of 48 hours. The reaction mixture was diluted with water and the aqueous mixture was extracted with chloroform. The chloroform extract was dried and the solvent was removed by distillation under reduced pressure to give a pale yellow solid. The solid was recrystallised from ethanol to give the title compound (1.3 g), m.p. 142° C.

reactant | 2-(3-hydroxyphenoxy)-5-chloropyrimidine | 2.22 g | OC=1C=C(OC2=NC=C(C=N2)Cl)C=CC1 | C10H7ClN2O2
reactant | 2-chloro-4,6-dimethylpyrimidine | 1.43 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | isobutyl methyl ketone | 25 ml | CC(=O)CC(C)C | C6H12O
reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-Chloro-2-[3-(4,6-dimethyl-2-pyrimidyloxy)phenoxy]pyrimidine | 1.3 g | ClC=1C=NC(=NC1)OC1=CC(=CC=C1)OC1=NC(=CC(=N1)C)C | C16H13ClN4O2
